US08193354B2
Isolation of Gemcitabine Hydrochloride
To the 20 g of thick oil of Gemcitabine base obtained as in example 3 was added 1,4-Dioxane (120 ml) and the mixture was heated to 60°-68° C. and stirred for 15 minutes. Conc. HCl (10 ml) was then added to the mixture and the contents were heated at same temperature for one hour. Reaction mass was then cooled to 10-15° C. and maintained for 30 minutes. The solid thus obtained was filtered off and washed with 1,4-Dioxane and dried under vacuum at 55-60° C. to get 8 g material with Specific Optical Rotation i.e.[α]D=+40° and HPLC purity of 85% β-anomer and 8% α-anomer.

reactant | Gemcitabine | C1=CN(C(=O)N=C1N)[C@H]2C([C@@H]([C@H](O2)CO)O)(F)F | C9H11F2N3O4
reactant | HCl | 10 ml | Cl | ClH
solvent | 1,4-Dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | Gemcitabine Hydrochloride | 8 g | C1=CN(C(=O)N=C1N)[C@H]2C([C@@H]([C@H](O2)CO)O)(F)F.Cl | InChI=1S/C9H11F2N3O4.ClH/c10-9(11)6(16)4(3-15)18-7(9)14-2-1-5(12)13-8(14)17;/h1-2,4,6-7,15-16H,3H2,(H2,12,13,17);1H/t4-,6-,7-;/m1./s1
